US08222263B2
A mixture of N-(5-bromo-2-methylphenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide (116 mg, 0.228 mmol), pyrazole-2-boronic acid (218 mg, 1.9 mmol), potassium carbonate (1.4 mmol) and tetrakis(triphenylphosphine)palladium (27 mg, 0.023 mmol) in dioxane (2 mL) was heated to 110° C. overnight. The reaction was cooled, concentrated on a rotary evaporator and purified by preparative reverse phase HPLC to give N-[2-methyl-5-(1H-pyrazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide (78 mg, 69%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 10.33 (s, 1H), 9.79 (s, 1H), 8.18 (d, 2H), 8.02 (d, 2H), 7.86 (m, 3H), 7.80 (m, 3H), 7.70 (s, 1H), 7.64 (m, 3H), 7.60 (dd, 1H), 7.42 (dt, 1H), 7.31 (d, 1H), 6.69 (d, 1H), 2.50 (s, 3H). MS (EI) for C31H24N6O: 497.1 (MH+).

reactant | N-(5-bromo-2-methylphenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 0.228 mmol, 116 mg | BrC=1C=CC(=C(C1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O)C | C28H21BrN4O
reactant | pyrazole-2-boronic acid | 1.9 mmol, 218 mg | N=1N(C=CC1)B(O)O | C3H5BN2O2
reactant | potassium carbonate | 1.4 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.023 mmol, 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[2-methyl-5-(1H-pyrazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 78 mg, 69% | CC1=C(C=C(C=C1)C1=CC=NN1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O | C31H24N6O
